US05167949
d) 4-Amino-2-[(2,3-dichlorophenoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 3.6 g (0.030 mole) of 3-amino-2-pyrazinecarbonitrile and 6.6 g (0.030 mole) of 2-(2,3-dichlorophenoxy)acetamidine in 100 ml of absolute ethanol. Refluxing time: 14 hours. Yld: 8.1 g (84%), m.p. 216°-218° C. (ethanol).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.030 mole, 3.6 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(2,3-dichlorophenoxy)acetamidine | 0.030 mole, 6.6 g | ClC1=C(OCC(=N)N)C=CC=C1Cl | C8H8Cl2N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Amino-2-[(2,3-dichlorophenoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COC1=C(C(=CC=C1)Cl)Cl | C13H9Cl2N5O
